US07511050B2
Step F: 2-(Methylthio)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-6H-purin-6-one
To the solution of 3-pentyl-2-thioxo-8-(trifluoromethyl)-1,2,3,7-tetrahydro-6H-purin-6-one (600 mg, 2 mmol) in a 2 M solution of sodium hydroxide in water (12.0 mL) was added dimethyl sulfate (0.30 mL, 3.2 mmol). The reaction mixture was stirred at room temperature for 1.5 h and quenched with acetic acid. The resulting solution was extracted with methylene chloride three times. The combined organic layer was dried, filtered and concentrated to give the desired product (0.60 g, 95.6%). LCMS calculated for C12H16F3N4OS: (M+H) 321.1; found 321.1.

reactant | 3-pentyl-2-thioxo-8-(trifluoromethyl)-1,2,3,7-tetrahydro-6H-purin-6-one | 2 mmol, 600 mg | C(CCCC)N1C(NC(C=2NC(=NC12)C(F)(F)F)=O)=S | C11H13F3N4OS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl sulfate | 3.2 mmol, 0.30 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | water | 12.0 mL | O | H2O
product | 2-(Methylthio)-3-pentyl-8-(trifluoromethyl)-3,7-dihydro-6H-purin-6-one | 0.60 g, 95.6% | CSC1=NC(C=2NC(=NC2N1CCCCC)C(F)(F)F)=O | C12H15F3N4OS
